US07947692B2
A solution of piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide hydrochloride (2 g, 6.0 mmol) in methanol (200 mL) was treated with N,N-diisopropylethylamine (2.2 mL, 12.6 mmol). The mixture was stirred at 25° C. for 10 min until a clear solution formed. At this time, the reaction was treated with acetic acid (1.75 mL, 30.6 mmol), 3-trifluoromethy-benzaldehyde (2.4 mL, 17.9 mmol) and sodium cyanoborohydride (1.1 g, 17.7 mmol). This mixture was stirred at 25° C. overnight. The reaction was then concentrated in vacuo and partitioned between methylene chloride and an aqueous phosphate buffer (pH=7). The organics were washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated in vacuo to give a solid. This solid was dissolved in methanol and absorbed onto silica gel (4 g). ISCO chromatography (330 g, Silica, gradient elution 5/95 methanol/methylene chloride) afforded 4-(3-trifluoromethyl-benzyl)-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (1.56 g, 58%) as a white solid; LRMS for C19H19F3N6O2S (M+H)+ at m/z=453. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide hydrochloride | 6.0 mmol, 2 g | Cl.COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCNCC2
reactant | N,N-diisopropylethylamine | 12.6 mmol, 2.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic acid | 30.6 mmol, 1.75 mL | C(C)(=O)O | C2H4O2
reactant | 3-trifluoromethy-benzaldehyde | 17.9 mmol, 2.4 mL | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | sodium cyanoborohydride | 17.7 mmol, 1.1 g | C(#N)[BH3-].[Na+]
solvent | methanol | 200 mL | CO | CH4O
product | 4-(3-trifluoromethyl-benzyl)-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 1.56 g, 58% | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCN(CC2)CC2=CC(=CC=C2)C(F)(F)F | C19H19F3N6O2S
